US07893060B2
2-Methyl-4-(toluene-4-sulfonyloxy)-thiazole-5-carboxylic acid ethyl ester
To a solution of 4-hydroxy-2-methyl-thiazole-5-carboxylic acid ethyl ester (5.0 g, 26.74 mmol) in chloroform (80 mL) were added p-toluenesulfonyl chloride (5.61 g, 29.41 mmol) and triethylamine (4.84 mL, 34.76 mmol) at 0° C. The reaction mixture was allowed to warm to RT over 4 h, then diluted with DCM and H2O. The organic layer was isolated, washed with H2O and brine, then dried (MgSO4) and concentrated in vacuo. The resultant residue was purified by column chromatography to give the title compound as a pale brown solid (8.1 g, 89%).

reactant | 4-hydroxy-2-methyl-thiazole-5-carboxylic acid ethyl ester | 26.74 mmol, 5.0 g | C(C)OC(=O)C1=C(N=C(S1)C)O | C7H9NO3S
reactant | p-toluenesulfonyl chloride | 29.41 mmol, 5.61 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 34.76 mmol, 4.84 mL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 80 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | 2-Methyl-4-(toluene-4-sulfonyloxy)-thiazole-5-carboxylic acid ethyl ester | 8.1 g, 89% | C(C)OC(=O)C1=C(N=C(S1)C)OS(=O)(=O)C1=CC=C(C=C1)C | C14H15NO5S2
